US06441017B1
Step B: 6-tert-Butyldiphenylsilyloxy-2,3-dihydro-4H-chromen-4-one
A mixture of 6-hydroxy-2,3-dihydro-4H-chromen-4-one (1.65 g, 10.1 mmol), tert-butyldiphenylsilylchloride (6.87 g, 25.2 mmol), and imidazole (2.1 g, 30.3 mmol) in degassed DMF (30 mL) was heated at 60° C. for 18 hours. The solvent was removed in vacuo and the residue purified by silica gel chromatography, eluting with hexane—20% EtOAc, to yield the titled product.

reactant | 6-hydroxy-2,3-dihydro-4H-chromen-4-one | 10.1 mmol, 1.65 g | OC=1C=C2C(CCOC2=CC1)=O | C9H8O3
reactant | tert-butyldiphenylsilylchloride | 25.2 mmol, 6.87 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 30.3 mmol, 2.1 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 6-tert-Butyldiphenylsilyloxy-2,3-dihydro-4H-chromen-4-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C2C(CCOC2=CC1)=O | C25H26O3Si
